US04256639
4,5,6,7-tetrahydro-N-(2,6-dichlorophenyl)-isatin
A solution of 65 g (0.33 mols) of ethyl 2-cyclohexanone-glyoxylate and 135 g (0.83 mols) of 2,6-dichloroaniline in 150 ml of methanol is refluxed for 30 hours. After this period, there is introduced steam into the reaction vessel, thus removing the excess 2,6-dichloroaniline. The residue of the steam distillation is removed by filtration and recrystallized from methanol.

reactant | ethyl 2-cyclohexanone glyoxylate | 0.33 mols, 65 g | C(C)C1C(CCCC1)=O.C(C=O)(=O)[O-]
reactant | 2,6-dichloroaniline | 0.83 mols, 135 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
solvent | methanol | 150 ml | CO | CH4O
product | 4,5,6,7-tetrahydro-N-(2,6-dichlorophenyl)-isatin | ClC1=C(C(=CC=C1)Cl)N1C(=O)C(=O)C=2CCCCC12 | C14H11Cl2NO2
